US07713994B2
2-Furan-2-yl-5-hydroxy-benzonitrile
5-Hydroxy-2-iodo-benzonitrile (200 mg, 0.82 mmol) and PdCl2(PPh3)2 (20 mg, 0.028 mmol) and 2-furyltributyltin (400 g, 1.12 mmol) in N,N-dimethylformamide (5 mL) is degassed and heated at 100° C. for 15 min. After the mixture cooled to room temperature, an aqueous work up is performed and the product is isolated from chromatography (100 mg, 66%). MS (ESI): 184 (M−1)−1.

reactant | 5-Hydroxy-2-iodo-benzonitrile | 0.82 mmol, 200 mg | OC=1C=CC(=C(C#N)C1)I | C7H4INO
reactant | 2-furyltributyltin | 1.12 mmol, 400 g | O1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.028 mmol, 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Furan-2-yl-5-hydroxy-benzonitrile | O1C(=CC=C1)C1=C(C#N)C=C(C=C1)O | C11H7NO2
